US07655666B2
2-Amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (400 mg, 1.16 mmol) and 1-methyl-2-tributylstannanyl-1H-pyrrole (643 mg, 1.5 equiv) were weighed in air and added in a flame-dried flask. [Bistriphenylphosphine]dichloropalladium (124.5 mg, 0.15 equiv) was added and the flask was closed by a septum. Dioxane (16 mL) was added and the mixture was stirred for 1 h (TLC control) at 100° C. After 1 h, 1-methyl-2-tributylstannyl-1H-pyrrole (429 mg, 1 equiv) was added and the mixture was stirred for 35 h (TLC control) at 100° C. The solvent was removed in vacuo, the residue was taken in DCM and washed with a saturated solution of NaHCO3, water and brine. The organic phase was dried over Na2SO4 and evaporated to dryness. The crude product was purified by flash chromatography (hexanes to EtOAc/hexanes (4:6)) to furnish 2-amino-5-(1-methyl-1H-pyrrol-2-yl)-4-trifluoromethyl-benzoic acid methyl ester (50 mg, 14.5%) as a yellow oil. ESI-MS: m/z 299 [M+H]+, rt 5.78 min.

reactant | 2-Amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 1.16 mmol, 400 mg | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
reactant | 1-methyl-2-tributylstannanyl-1H-pyrrole | 643 mg, 1.5 equiv | CN1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-methyl-2-tributylstannyl-1H-pyrrole | 429 mg, 1 equiv | CN1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | Dioxane | 16 mL | O1CCOCC1 | C4H8O2
product | 2-amino-5-(1-methyl-1H-pyrrol-2-yl)-4-trifluoromethyl-benzoic acid methyl ester | 50 mg, 14.5% | COC(C1=C(C=C(C(=C1)C=1N(C=CC1)C)C(F)(F)F)N)=O | C14H13F3N2O2
